US04286089
When an equivalent amount of 1-(3-carboxypropyl)tetrazole-5-thiol was substituted in the procedure of Example 5 for 1-carboxymethyltetrazole-5-thiol, 1-(3-carbamoylpropyl)tetrazole-5-thiol was obtained, m.p. 133°-136°.

reactant | 1-(3-carboxypropyl)tetrazole-5-thiol | C(=O)(O)CCCN1N=NN=C1S | C5H8N4O2S
reactant | 1-carboxymethyltetrazole-5-thiol | C(=O)(O)CN1N=NN=C1S | C3H4N4O2S
product | 1-(3-carbamoylpropyl)tetrazole-5-thiol | C(N)(=O)CCCN1N=NN=C1S | C5H9N5OS
